US06642228B1
1-(1-(3-(4-Indol-3-ylpiperidyl)propyl)-3-piperidyl)-4-methoxybenzene Hydrochloride
To a suspended solution of 4-(3-indolyl)piperidine (48 mg, 0.24 mmol) and 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride (61 mg, 0.2 mmol) in acetonitrile (13 mL) was added potassium carbonate (111 mg, 0.8 mmol), and the resulting mixture was refluxed for 12 hours. After the precipitated salt was filtered off, the filtrate was concentrated, and the resulting crude product was purified by column chromatography on a silica gel (eluent; chloroform:ammonia-saturated chloroform=10:1→3:1→1:2) to afford a free form (92 mg) of the title compound as a colorless viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then freeze-dried to afford the title compound (81 mg, yield: 80%) as a white amorphous solid.

reactant | 4-(3-indolyl)piperidine | 0.24 mmol, 48 mg | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride | 0.2 mmol, 61 mg | Cl.ClCCCN1CC(CCC1)C1=CC=C(C=C1)OC
reactant | potassium carbonate | 0.8 mmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 13 mL | C(C)#N | C2H3N
product | 1-(1-(3-(4-Indol-3-ylpiperidyl)propyl)-3-piperidyl)-4-methoxybenzene Hydrochloride | 92 mg | Cl.N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCN1CC(CCC1)C1=CC=C(C=C1)OC | InChI=1S/C28H37N3O.ClH/c1-32-25-11-9-22(10-12-25)24-6-4-15-31(21-24)17-5-16-30-18-13-23(14-19-30)27-20-29-28-8-3-2-7-26(27)28;/h2-3,7-12,20,23-24,29H,4-6,13-19,21H2,1H3;1H
